Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
CC: ___ pain
PCP: ___ 
 
___ Surgical or Invasive Procedure:
None
 
History of Present Illness:
This is a ___ yo F with PMH of alcohol use disorder currently in 
inpatient treatment with recent diagnosis of hepatitis C and A 
who presents with ___ pain. Pt reports feeling unwell and 
confused over the past couple weeks. In preparation to start 
naltrexone, she had labs drawn on ___ which showed ALT
1195/AST 664 and hepatitis serologies positive for HAV and HCV. 
Per OMR, her PCP made attempts to contact her. It is unclear the 
action taken by the ordering provider or the treatment center 
where she currently resides. Initial mild elevation in her 
transaminases were noted on ___ with ALT 143/AST 189/AP 100. Pt 
adamantly denies any history of IVDU. She does admit to 
unprotected sex about 5 months ago and believes this is how she 
contracted HCV. Reports occasional nausea and vomiting over the 
past couple weeks. Last drink ___. Denies illicit drug use 
in the past month.

In ED, labs revealed further increase in ALT to 1362/AST 653/AP 
187/T.bili 0.6. ___ U/S showed biliary ductal dilatation and 
dilated CBD without presence of stones. 

In the ED, initial VS were: 98.0, 113, 121/78, 18, 95% RA 
  
ED physical exam was recorded as:
"Well-appearing, nonjaundiced Tender to palpation in 
midepigastric and right upper quadrant"

Imaging showed: 
___ U/S:
1. Central intrahepatic biliary ductal dilatation and dilation 
of the common bile duct to up to 1.5 cm distally without 
choledocholith identified.
2. Unremarkable gallbladder without stones, wall edema, or 
pericholecystic fluid.

Patient was given:
___ 01:11 IV Morphine Sulfate 4 mg  
___ 01:11 IVF  NS ( 1000 mL ordered) 

When seen on the floor, pt was comfortable but became 
increasingly anxious and confused during the interview. She 
states she is distraught about the new dx of HCV and states she 
only learned about it yesterday. 
  
REVIEW OF SYSTEMS: 
A ten point ROS was conducted and was negative except as above 
in the HPI.

 
Past Medical History:
Alcohol use disorder
Depression/anxiety/panic attacks
Asthma
TB infection as a child
cervical CA
 
Social History:
___
Family History:
Alcoholism and cirrhosis on both mother and father's side.    
 
Physical Exam:
 Vitals: 97.8 PO 121 / 79 62 18 98 RA 
 Gen: NAD, lying in bed
 Eyes: EOMI, sclerae anicteric  
 ENT: MMM, OP clear
 Cardiovasc: RRR, no MRG, full pulses, no edema  
 Resp: normal effort, no accessory muscle use, lungs CTA ___.
 GI: soft, ___ tenderness, ND, BS+
 MSK: No significant kyphosis. No palpable synovitis.
 Skin: No visible rash. No jaundice.
 Neuro: AAOx3. Confused. Difficulty recalling series of events
over past couple weeks. Gets dates confused. Initially unsure
which hospital she was at. (+) Asterixis. No facial droop. MAE.
 Psych: Anxious. Tearful.

 
Pertinent Results:
___ 07:31PM   WBC-7.2# RBC-4.89 HGB-15.7 HCT-47.1* MCV-96 
MCH-32.1* MCHC-33.3 RDW-12.8 RDWSD-45.5
___ 07:31PM   PLT COUNT-217
___ 03:35PM   ALT(SGPT)-1362* AST(SGOT)-653* ALK PHOS-180* 
AMYLASE-62
___ 03:35PM   LIPASE-40 GGT-297*

# ___ U/S ___:
1. Central intrahepatic biliary ductal dilatation and dilation 
of
the common bile duct to up to 1.5 cm distally without
choledocholith identified.
2. Unremarkable gallbladder without stones, wall edema, or
pericholecystic fluid
. 
# MRCP (___):   
1. Heterogeneous enhancement of the liver parenchyma in keeping 
with clinical history of known hepatitis. 
2. No MRI evidence of biliary obstruction with mild dilation of 
the 
suprapancreatic extrahepatic bile ducts without intrahepatic 
duct dilation.  No choledocholithiasis or mass.  As the 
ampullary segment is not seen to open during the study, the 
appearance could be from sphincter of Oddi dysfunction. 

 
Brief Hospital Course:
ASSESSMENT & PLAN: ___ h/o asthma, EtOH use disorder, anxiety 
and history of personal trauma admitted with acute hepatitis 
unclear etiology. 

ACUTE: 
# Acute hepatitis: Ms. ___ was admitted with significant 
elevation of AST/ALT associated ___ abd pain.  Liver tests were 
significantly elevated with ALT 1362, AT 653, AP 180.  TBili was 
normal.   There was no evidence of synthetic dysfunction: coags, 
mental status stable.  
   For workup, a ___ U/S was done and revealed CBD dilation with 
CBD at 1.5 cm distally without choledocholith identified.   GB 
was normal.  Hepatology was consulted and recommended multiple 
tests with the following results: Hep A IgG was positive; TTG, 
A1AT, HAV IgM, Hep B IgM core returned negative. At the time of 
discharge, HCV VL, ___, AMA, ___ tests are pending.  MRCP was 
also performed to further evaluate the CBD dilation - it 
revealed no stricture, malignancy or stones.  
     Ultimately, the cause of the elevated LFTS were attributed 
to possibly acute Hep C +/- overlying Autoimmune hepatitis or 
statin induced autoimmune hepatitis.  The AIH blood tests are 
pending and will be followed up as an outpt.  The atorvastatin 
was discontinued.  The LFTs on observation showed steady albeit 
slow improvement during the hospitalization.  If there is no 
significant improvement, then there may be consideration of 
liver biopsy as an outpt. 
     Ms. ___ was unclear how she contracted Hep C.  She 
denies IVDU but admits to unprotected sex ~ ___ months prior to 
admission.  Educational information was provided to her 
regarding Hep C.
   She has outpt hepatology followup in 2 weeks from discharge 
for long-term monitoring and treatment. 

# depression/anxiety
She was continue home meds: celexa, doxepin, and hydroxyzine.  
SW was also consulted for coping. 

CHRONIC ISSUES:
# Etoh Dependence
Currently in an inpatient treatment center. Last drink ___.  
She will return to the inpatient treatment ___ further 
___ rehab. 

# asthma
- continue Advair
- Albuterol inhaler

# HLD
- holding statin as above

# tobacco dependence
- nicotine patch

# PPX: patient is ambulatory
# Code status: full

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze 
2. Atorvastatin 10 mg PO QPM 
3. Citalopram 20 mg PO DAILY 
4. Doxepin HCl 50 mg PO HS 
5. Fluticasone Propionate NASAL 1 SPRY NU BID 
6. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
7. HydrOXYzine 50 mg PO BID:PRN anxiety 
8. Omeprazole 40 mg PO DAILY 
9. Propranolol 10 mg PO BID 
10. Cetirizine 10 mg PO DAILY 
11. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  OxyCODONE (Immediate Release) 2.5-5 mg PO Q6H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth every six 
(6) hours Disp #*5 Tablet Refills:*0 
2.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheeze  
3.  Cetirizine 10 mg PO DAILY  
4.  Citalopram 20 mg PO DAILY  
5.  Doxepin HCl 50 mg PO HS  
6.  Fluticasone Propionate NASAL 1 SPRY NU BID  
7.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
8.  HydrOXYzine 50 mg PO BID:PRN anxiety  
9.  Omeprazole 40 mg PO DAILY  
10.  Propranolol 10 mg PO BID  
11.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transaminitis - Hepatitis C 
Etoh use (chronic - now abstinent)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___,
   It was a pleasure looking after you.  As you know, you were 
admitted with abdominal pain and significantly elevated liver 
tests.  You were seen by the liver specialists and had multiple 
tests performed.  The tests reveal that you have active 
hepatitis C infection.   Other tests were also sent (some 
pending) which will reveal whether there is another ongoing 
process in the liver.
    
    Please do not take the simvastatin anymore - since this can 
affect the liver as well.   

    You are scheduled to see a hepatologist (liver expert) in 2 
weeks.   The results of the studies and management of Hepatitic 
C will be discussed. 

    We wish you the best of luck and good health. 
Your ___ Team 
 
Followup Instructions:
___